US04009181
A mixture of 4.6 g. of 6-chloro-9-methyl-1,2,3,4-tetrahydrocarbazole-2-carboxylic acid ethyl ester, 25 ml. of ethanol and 25 ml. of 3N sodium hydroxide was refluxed and stirred for 6 hours. Upon cooling to room temperature, the reaction mixture was concentrated to dryness under reduced pressure. The residue was dissolved in water (300 ml.) and filtered. The filter cake was washed with water (4 × 50 ml.) and dried, yielding 4.2 g. of product, m.p. 259°-260° . Upon recrystallization from ethyl acetate, 4.0. g. of 6-chloro-9-methyl-1,2,3,4-tetrahydrocarbazole-2-carboxylic acid was obtained, m.p. 259°-260°.

reactant | 6-chloro-9-methyl-1,2,3,4-tetrahydrocarbazole-2-carboxylic acid ethyl ester | C(C)OC(=O)C1CC=2N(C3=CC=C(C=C3C2CC1)Cl)C | C16H18ClNO2
reactant | sodium hydroxide | 3N | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 6-chloro-9-methyl-1,2,3,4-tetrahydrocarbazole-2-carboxylic acid | ClC=1C=C2C=3CCC(CC3N(C2=CC1)C)C(=O)O | C14H14ClNO2
